US07772253B2
1H-indole-7-carboxylic acid[1-(4-chloro-3-ethoxy-benzyl)piperidin-4-yl]-amide
Indole-7-carboxlic acid (19 mg, 0.12 mmol), Et3N (20 μL, 0.15 mmol), EDCI (25 mg, 0.13 mmol) and 1-(4-chloro-3-ethoxy-benzyl)piperidin-4-ylamine (27 mg, 0.1 mmol) were shaken in DMF (1.0 ml) for 16 h, after which time the solvent was evaporated and the residue purified by reversed phase HPLC (MeCN:H2O) affording the title compound (12 mg, 29%). MS: 412.4 (MH+)

reactant | Indole-7-carboxlic acid | 0.12 mmol, 19 mg | N1C=CC2=CC=CC(=C12)C(=O)O | C9H7NO2
reactant | Et3N | 0.15 mmol, 20 μL | CCN(CC)CC | C6H15N
reactant | EDCI | 0.13 mmol, 25 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 1-(4-chloro-3-ethoxy-benzyl)piperidin-4-ylamine | 0.1 mmol, 27 mg | ClC1=C(C=C(CN2CCC(CC2)N)C=C1)OCC | C14H21ClN2O
solvent | DMF | 1.0 ml | CN(C)C=O | C3H7NO
product | 1H-indole-7-carboxylic acid[1-(4-chloro-3-ethoxy-benzyl)piperidin-4-yl]-amide | 12 mg, 29% | ClC1=C(C=C(CN2CCC(CC2)NC(=O)C=2C=CC=C3C=CNC23)C=C1)OCC | C23H26ClN3O2
